US05447954
±(4R*,5R*) 4-Carboxy-5-[8-(2,4-dichlorophenyl)octyl]-4-hydroxytetrahydrofuran-2-one
Aqueous NaOH (1M, 4 ml, 4.0 mmol) was added dropwise to a stirred solution of ±(4R*,5R*,) 5-[8-(2,4-dichlorophenyl)-octyl]-4-hydroxy-4 -methoxycarbonyltetrahydrofuran-2-one (198 mg, 0.474 mmol) in methanol (4 ml) at 0° C. The solution was stirred at room temperature for 24 h, diluted with water, and washed with ether. The aqueous phase was acidified (aqueous HCl), and extracted with ether. The extracts were washed with water, saturated aqueous NaCl, and dried (MgSO4). The solvent was removed under vacuum. The crude diacid was stirred with silica gel (3 g), impregnated with 2M aqueous H2SO4 (0.15 ml), in ether for 1 h. The mixture was filtered, and the solvent removed from the filtrate under vacuum to give the title compound (107 mg), (δ 200 MHz, CDCl3) 7.34-7.10 (3H, m), 4.66 (1H, dd), 3.25 (1H, d), 2.77 (1H, d), 2.67 (2H, t), 1.95-1.20 (14H, m), contaminated with a small amount of ±(E) (4R*,5R*) 4-carboxy-5-[8-(2,4-dichlorophenyl)-7-octenyl]-4-hydroxytetrahydrofuran-2-one.

reactant | NaOH | 4.0 mmol, 1M, 4 ml | [OH-].[Na+]
reactant | 5-[8-(2,4-dichlorophenyl)-octyl]-4-hydroxy-4 -methoxycarbonyltetrahydrofuran-2-one | 0.474 mmol, 198 mg | ClC1=C(C=CC(=C1)Cl)CCCCCCCCC1C(CC(O1)=O)(C(=O)OC)O | C20H26Cl2O5
solvent | methanol | 4 ml | CO | CH4O
solvent | water | O | H2O
product | (4R*,5R*) 4-Carboxy-5-[8-(2,4-dichlorophenyl)octyl]-4-hydroxytetrahydrofuran-2-one | 107 mg | C(=O)(O)[C@]1(CC(O[C@@H]1CCCCCCCCC1=C(C=C(C=C1)Cl)Cl)=O)O | C19H24Cl2O5
